US04687775
A mixture of 12.2 g (0.1 mole) of 3,4-diaminotoluene, 35 ml of carbon disulfide, and 4.0 g (0.1 mole) of sodium hydroxide was heated at reflux in 350 ml of ethanol. After 2.5 hours the mixture was concentrated in vacuo. The residue was suspended in 200 ml of 4% aqueous hydrochloric acid, collected by filtration, washed sequentially with water and diethyl ether, and air dried to yield 12.2 g of 2-mercapto-5-methylbenzimidazole, as confirmed by the nmr and infrared spectra. The title compound (796 mg) was prepared by the method of Example 6 using 8-hydroxymethylimidazo[1,2-a]pyridine as the hydrochloride salt and using 569 mg (3.5 mmole) of 2-mercapto-5-methylbenzimidazole instead of 2-mercapto-5-methoxybenzimidazole. Structure assignment was supported by elemental analysis.

reactant | 3,4-diaminotoluene | 0.1 mole, 12.2 g | NC=1C=C(C=CC1N)C | C7H10N2
reactant | carbon disulfide | 35 ml | C(=S)=S | CS2
reactant | sodium hydroxide | 0.1 mole, 4.0 g | [OH-].[Na+]
solvent | ethanol | 350 ml | C(C)O | C2H6O
product | 2-mercapto-5-methylbenzimidazole | 12.2 g | SC=1NC2=C(N1)C=CC(=C2)C | C8H8N2S
